US08198271B2
N-(4-Aminothiophen-3-yl)-4-[1-(2-dimethylaminoethyl)-3-(indan-5-yl)ureidomethyl]benzamide (Compound No. 2-1)
A solution of 4-[1-(2-dimethylaminoethyl)-3-(indan-5-yl)ureidomethyl]benzoic acid (Reference Compound No. 11-1, 77 mg, 0.20 mmol), 3,4-diaminothiophene dihydrochloride (45 mg, 0.24 mmol), N,N-diisopropylethylamine (77 μL, 0.44 mmol) and HATU (90 mg, 0.24 mmol) in DMF (2.0 mL) was stirred at room temperature overnight. Water (30 mL) was added to the reaction solution, and then the whole was extracted with ethyl acetate (30 mL) three times. The organic layer was washed with water (30 mL) and brine (30 mL), dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel (NH-modified silica gel) column chromatography (chloroform-methanol) to give 55 mg of the title compound as a brown amorphous product. (Yield 58%)

reactant | 4-[1-(2-dimethylaminoethyl)-3-(indan-5-yl)ureidomethyl]benzoic acid | 0.20 mmol, 77 mg | CN(CCC(C1=CC=C(C(=O)O)C=C1)NC(=O)NC=1C=C2CCCC2=CC1)C | C22H27N3O3
reactant | 3,4-diaminothiophene dihydrochloride | 0.24 mmol, 45 mg | Cl.Cl.NC1=CSC=C1N
reactant | N,N-diisopropylethylamine | 0.44 mmol, 77 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 0.24 mmol, 90 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
solvent | Water | 30 mL | O | H2O
product | N-(4-Aminothiophen-3-yl)-4-[1-(2-dimethylaminoethyl)-3-(indan-5-yl)ureidomethyl]benzamide | 55 mg, Yield 58% | NC=1C(=CSC1)NC(C1=CC=C(C=C1)C(CCN(C)C)NC(=O)NC=1C=C2CCCC2=CC1)=O | C26H31N5O2S
